Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Celexa / Bactrim
 
Attending: ___.
 
Chief Complaint:
small bowel obstruction
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ M h/o colon polys, GERD and BPH p/w 7 hours abdominal
pain, distension, and nausea.  The pain is crampy in nature. 
Last ate dinner ___ pm.  No emesis. Increased flatus over 
the
past week, none since last pm.  Having BMs, solid and small last
evening, several more soft small BMs this am.  No relief. 
Associated with dyspnea when supine.
 
Past Medical History:
BPH, h/o GERD diagnosed ___, took omeprazole and ranitidine
x ___ yr, then d/c'd. now asymptomatic. Normal c-scope ___ @
___.  Anxiety d/o, h/o panic attacks.

 
Social History:
___
Family History:
___, Mo-rectal ca diagnosed age ___

 
Physical Exam:
Gen: Awake and alert
CV: RRR
Resp: CTAB
Abd: Soft, nontender, nondistended
Ext: WWP
 
Pertinent Results:
___ 04:10AM BLOOD WBC-10.2* RBC-4.66 Hgb-14.6 Hct-43.5 
MCV-93 MCH-31.3 MCHC-33.6 RDW-13.2 RDWSD-45.2 Plt ___
___ 04:10AM BLOOD Neuts-79.9* Lymphs-12.4* Monos-6.7 
Eos-0.1* Baso-0.5 Im ___ AbsNeut-8.13* AbsLymp-1.26 
AbsMono-0.68 AbsEos-0.01* AbsBaso-0.05
___ 05:20AM BLOOD Glucose-89 UreaN-11 Creat-1.0 Na-137 
K-4.0 Cl-102 HCO3-26 AnGap-13
___ 04:10AM BLOOD ALT-27 AST-37 AlkPhos-39* TotBili-0.6
___ 05:20AM BLOOD Calcium-8.8 Phos-2.7 Mg-1.9
___ 04:10AM BLOOD CEA-3.0

Imaging: 
CT Scan (___)
IMPRESSION:
1. Multiple dilated loops of fluid-filled small bowel consistent 
with
obstruction with transition point likely in the right lower 
quadrant.  Trace
amount of mesenteric fluid interspersed between dilated bowel 
loops. 
Fecalized loop of bowel in the jejunum.
2. Enlarged prostate.
 
Brief Hospital Course:
Mr. ___ was admitted to ___ 
on ___ with small bowel obstruction. A CT scan showed 
multiple dilated loops of small bowel with a transition point in 
the RLQ. An NG tube was placed, and he was kept NPO on IVF. By 
the end of the day on ___, his pain and distention had 
improved, and he had passed flatus. On ___, his NG tube was 
removed. He continued to pass flatus. He was started on a clear 
liquid diet that afternoon, which he tolerated well. He had a 
bowel movement that evening. On ___, he was started on a 
regular diet, which he tolerated. He was not requiring pain 
medication and also denied any nausea. He was discharged home in 
stable condition on ___ with plans to follow-up in ___ 
clinic.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. alfuzosin 10 mg oral DAILY 

 
Discharge Medications:
1. alfuzosin 10 mg oral DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
small bowel obstruction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ for 
small bowel obstruction, which was managed with an NG tube and 
bowel rest. You are recovering well and are now ready for 
discharge.

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. There are no 
restrictions on your diet.

Thank you for allowing us to participate in your care!

 
Followup Instructions:
___